US05428043
A stirred solution of ethyl 5-methoxy-indole-2-carboxylate (30 g, 137 mmol) in 1.5 L of toluene under N2 was treated with sodium hydride (6.7 g of 60% in oil, 167 mmol) and ethylacrylate (16.3 ml, 150 mmol). The mixture was heated to reflux. After 3 hours (hr), additional ethyl acrylate (3 ml) and sodium hydride (3.3 g) were added. After a total of 8 hr, the starting material was consumed completely and the mixture was quenched with ethanol and treated with water and dilute HCl and methylene chloride. The organic layer was washed with brine, dried and concentrated to give 2,3-dihydro-1-oxo-7-methoxy-2-ethoxycarbonyl-1H-pyrrolo[1,2-a]indole, which was used directly in the next step.

reactant | ethyl 5-methoxy-indole-2-carboxylate | 137 mmol, 30 g | COC=1C=C2C=C(NC2=CC1)C(=O)OCC | C12H13NO3
reactant | sodium hydride | 167 mmol, 6.7 g | [H-].[Na+]
reactant | ethylacrylate | 150 mmol, 16.3 ml | C(C)OC(C=C)=O | C5H8O2
reactant | ethyl acrylate | 3 ml | C(C=C)(=O)OCC | C5H8O2
reactant | sodium hydride | 3.3 g | [H-].[Na+]
solvent | toluene | 1.5 L | C1(=CC=CC=C1)C | C7H8
product | 2,3-dihydro-1-oxo-7-methoxy-2-ethoxycarbonyl-1H-pyrrolo[1,2-a]indole | O=C1C(CN2C1=CC=1C=C(C=CC21)OC)C(=O)OCC | C15H15NO4
